US04232009
(13E)-(5RS,6RS,9α,11α,15S)-5-Bromo-6,9-epoxy-11,15-dihydroxy-20-chloroprost-13-enoic acid methyl ester
Under an atmosphere of nitrogen, 85 mg of N-bromosuccinimide were added to a solution of 175 mg of (5Z,13E)-(9α,11α,15S)-9,11,15-trihydroxy-20-chloroprosta-5,13-dienoic acid methyl ester [prepared as described in Example 4 of British Patent Application No. 22090/75 and, e.g. the equivalent Belgian Specification No. 842113] in 3 ml of a mixture of chloroform and tetrahydrofuran (1:1) and the mixture was stirred at room temperature for 10 minutes. The reaction mixture was diluted with ethyl acetate and washed with an aqueous solution of sodium chloride, dried over anhydrous sodium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of cyclohexane and ethyl acetate (1:2) as eluent to give 165 mg of the title compound having the following physical characteristics:

reactant | N-bromosuccinimide | 85 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (5Z,13E)-(9α,11α,15S)-9,11,15-trihydroxy-20-chloroprosta-5,13-dienoic acid methyl ester | 175 mg | COC(CCC\C=C/C[C@H]1[C@H](C[C@H]([C@@H]1\C=C\[C@H](CCCCCCl)O)O)O)=O | C21H35ClO5
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (13E)-(5RS,6RS,9α,11α,15S)-5-Bromo-6,9-epoxy-11,15-dihydroxy-20-chloroprost-13-enoic acid methyl ester | 165 mg | COC(CCCC(C1C[C@H]2[C@H](C[C@H]([C@@H]2\C=C\[C@H](CCCCCCl)O)O)O1)Br)=O | C21H34BrClO5
